US07834063B2
A. 4-[{2-[(4-Aminophenyl)thio]ethyl}(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
A solution of 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile (0.100 g, 0.32 mmol) in THF (5 mL) was treated with 4-aminophenyidisulfide (0.318 g, 1.28 mmol) and tributylphosphine (0.259 g, 1.28 mmol) and stirred at rt for 3 hr. The mixture was partitioned between EtOAc and 0.5N NaOH. The organic phase was washed with 0.5N NaOH and brine, dried (Na2SO4), and concentrated in vacuo. The residue was purified by silica gel chromatography (2-60% EtOAc/hexanes gradient) to give the title compound (0.110 g, 75%): 1H NMR (400 MHz, CDCl3) δ 7.53 (d, J=8.8 Hz, 1H), 7.26 (d, J=8.1 Hz, 2H), 6.84 (d, J=2.4 Hz, 1H), 6.70-6.60 (m, 3H), 3.94 (q, J=8.4 Hz, 2H), 3.64 (t, J=7.7 Hz, 2H), 2.90 (t, J=7.7 Hz, 2H).

reactant | 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.32 mmol, 0.100 g | OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H10F6N2O
reactant | 4-aminophenyidisulfide | 1.28 mmol, 0.318 g | NC1=CC=C(C=C1)SSC1=CC=C(C=C1)N | C12H12N2S2
reactant | tributylphosphine | 1.28 mmol, 0.259 g | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-[{2-[(4-Aminophenyl)thio]ethyl}(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.110 g, 75% | NC1=CC=C(C=C1)SCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C18H15F6N3S
